US09062092B2
Compound 33a. (7-Bromo-quinolin-2-ylmethyl)-methyl-carbamic acid tert-butyl ester
To a stirred slurry of 7-bromo-quinoline-2-carbaldehyde (236 mg, 1.00 mmol, prepared as in EP 239746) in methanol (5 mL) was added methylamine in methanol (2 M, 2.5 mL, 5.00 mmol). The reaction mixture was stirred for 20 h and then evaporated. The residue was suspended in methanol (5 mL) and sodium borohydride (57 mg, 1.50 mmol) was added portionwise. The reaction mixture was stirred for 1 h and then partitioned between dichloromethane and saturated ammonium chloride solution. The organic layer was separated and washed with saturated ammonium chloride solution and the aqueous extracts were extracted with dichloromethane and the combined organics dried over anhydrous sodium sulfate, filtered and evaporated. The residue was dissolved in dichloromethane (8 mL) and to the resulting stirred solution was added a solution of di-tert-butyl dicarbonate (327 mg, 1.50 mmol) in dichloromethane (2 mL). After stirring for 3 h the reaction mixture was diluted with dichloromethane and washed with saturated sodium bicarbonate solution (2×) and the aqueous layer was extracted with dichloromethane. The combined organic extracts were passed through a hydrophobic frit and evaporated. The residue was purified by silica gel chromatography eluting with a gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (206 mg, 59%) as an orange oil and as a mixture of rotamers. 1H NMR (300 MHz, CDCl3) δ 1.42-1.61 (m, 9H), 2.92 (s, 1.5H), 3.00 (s, 1.5H), 4.71 (s, 1H), 4.75 (s, 1H), 7.34-7.46 (m, 1H), 7.64 (d, J=8.5 Hz, 1H), 7.70 (d, J=8.5 Hz, 1H), 8.13 (d, J=5.8 Hz, 1H), 8.26 (s, 1H). LCMS (m/z) 351.1, 353.1 [M+H], Tr=3.13 min.

reactant | 7-bromo-quinoline-2-carbaldehyde | 1.00 mmol, 236 mg | BrC1=CC=C2C=CC(=NC2=C1)C=O | C10H6BrNO
reactant | methylamine | CN | CH5N
reactant | sodium borohydride | 1.50 mmol, 57 mg | [BH4-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.50 mmol, 327 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | methanol | 5.00 mmol, 2 M, 2.5 mL | CO | CH4O
product | (7-Bromo-quinolin-2-ylmethyl)-methyl-carbamic acid tert-butyl ester | 206 mg, 59% | C(C)(C)(C)OC(N(C)CC1=NC2=CC(=CC=C2C=C1)Br)=O | C16H19BrN2O2
